US07112585B2
[2-Methyl-5-(toluene-4-sulfonyl)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine
A mixture of trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester (158 mg, 0.306 mmol), prepared by the method described in Example 22, methylboronic acid (36 mg, 0.61 mmol), 2 M Na2CO3 (2.0 mL, 4.0 mmol), and DME (4 mL) was degassed with N2 for 10 min, and then PdCl2(PPh3)2 (43 mg, 0.061 mmol) and triphenylphosphine (32 mg, 0.12 mmol) were added. The mixture was refluxed under N2 for 2 h and then cooled to room temperature. The reaction mixture was diluted with water, and extracted (3×) with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (67:33 hexanes/EtOAc) to provide the desired product (76 mg, 65%) as a white solid: mp 202–204° C.; 1H NMR (300 MHz, CDCl3) δ 8.75 (s, 1H), 8.23 (br s, 1H), 7.84 (d, J=8.4 Hz, 2H), 7.33 (d, J=8.4 Hz, 2H), 6.91 (s, 2H), 2.43 (s, 3H), 2.38 (s, 3H), 2.30 (s, 3H), 2.00 (s, 6H); ESI MS m/z 382 [(M+H)+, calcd for C21H24N3O2S, 382.2].

reactant | trifluoromethanesulfonic acid 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenyl ester | 0.306 mmol, 158 mg | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C21H20F3N3O5S2
reactant | methylboronic acid | 0.61 mmol, 36 mg | CB(O)O | CH5BO2
reactant | Na2CO3 | 4.0 mmol, 2 M, 2.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.12 mmol, 32 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
catalyst | PdCl2(PPh3)2 | 0.061 mmol, 43 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | 4 mL | COCCOC | C4H10O2
product | [2-Methyl-5-(toluene-4-sulfonyl)-pyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine | 76 mg, 65% | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)C | C21H23N3O2S
